US09238639B2
Methyl(4-chloro-2-methyl-6-((2-methyl-6-(trifluoromethyl)pyridin-3-yl)methoxy)-1-benzothiophen-3-yl)acetate
To a mixture of tri-n-butylphosphine (0.418 mL), methyl(4-chloro-6-hydroxy-2-methyl-1-benzothiophen-3-yl)acetate (151.2 mg) and (2-methyl-6-(trifluoromethyl)pyridin-3-yl)methanol (112 mg) and THF (5.0 mL) was added ADDP (423 mg) at room temperature. The mixture was stirred at room temperature under nitrogen atmosphere for 1 h. The mixture was concentrated. To the residue was added IPE and the precipitate was filtered off and the filtrate was concentrated in vacuo. The residue was purified by silica gel column chromatography (EtOAc/hexane) to give the title compound (165 mg). The solid was crystallized from EtOAc-hexane.

reactant | tri-n-butylphosphine | 0.418 mL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | methyl(4-chloro-6-hydroxy-2-methyl-1-benzothiophen-3-yl)acetate | 151.2 mg | COC(CC1=C(SC2=C1C(=CC(=C2)O)Cl)C)=O | C12H11ClO3S
reactant | (2-methyl-6-(trifluoromethyl)pyridin-3-yl)methanol | 112 mg | CC1=NC(=CC=C1CO)C(F)(F)F | C8H8F3NO
reactant | ADDP | 423 mg | C1CCN(CC1)C(=O)N=NC(=O)N2CCCCC2 | C12H20N4O2
solvent | THF | 5.0 mL | C1CCOC1 | C4H8O
product | Methyl(4-chloro-2-methyl-6-((2-methyl-6-(trifluoromethyl)pyridin-3-yl)methoxy)-1-benzothiophen-3-yl)acetate | 165 mg | COC(CC1=C(SC2=C1C(=CC(=C2)OCC=2C(=NC(=CC2)C(F)(F)F)C)Cl)C)=O | C20H17ClF3NO3S
